US06313122B1
2-[4-(1-Hydroxy-1-methylethyl)benzoylamino]-N-(4-methoxyphenyl)benzamide
To a solution of 2-(4-acetylbenzoylamino)-N-(4-methoxyphenyl)benzamide (161 mg, 0.410 mmol) in tetrahydrofuran (10 mL) cooled to 0° C. was added 3 M methyl magnesium bromide in diethyl ether (0.2 mL, 0.6 mmol). After 1 h, the reaction mixture was quenched with saturated aqueous ammonium chloride solution (2 mL), diluted with ether, and washed with water. The organic layer was dried (magnesium sulfate), filtered, and concentrated in vacuo. The residue was chromatographed (silica gel, 15% ethyl acetate/85% hexanes to 35% ethyl acetate/65% hexanes) to give 24 mg (14%) of the title compound as a white solid.

reactant | 2-(4-acetylbenzoylamino)-N-(4-methoxyphenyl)benzamide | 0.410 mmol, 161 mg | C(C)(=O)C1=CC=C(C(=O)NC2=C(C(=O)NC3=CC=C(C=C3)OC)C=CC=C2)C=C1 | C23H20N2O4
reactant | methyl magnesium bromide | 3 M | C[Mg]Br
reactant | diethyl ether | 0.6 mmol, 0.2 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-[4-(1-Hydroxy-1-methylethyl)benzoylamino]-N-(4-methoxyphenyl)benzamide | 24 mg, 14% | OC(C)(C)C1=CC=C(C(=O)NC2=C(C(=O)NC3=CC=C(C=C3)OC)C=CC=C2)C=C1 | C24H24N2O4
